US08293909B2
N-(4-(benzyloxy)pyridin-3-yl)methane sulfonamide.
Tetrabutylammonium fluoride 1 M in THF (12.2 ml, 42 mmol, 2.5 eq) was added to a solution of N-(4-(benzyloxy)pyridin-3-yl)-N-(methylsulfonyl)methane sulfonamide (6 g, 16.8 mmol, 1 eq) in THF at room temperature. The reaction mixture was refluxed at 60° C. for 10 h. The solution was concentrated completely and diluted with water (5 mL) and was allowed to stir for 15 minutes. The solid precipitated was filtered, washed with water and dried under vacuum yielding the expected product as a pale brown solid. 1HNMR (400 MHz, DMSO-d6): δ 3.35 (s, 3H), 5.27 (s, 2H), 7.21 (d, J=5.64 Hz, 1H), 7.36-7.54 (m, 3H), 7.54 d, J=7.28 Hz, 2H), 8.30 (s, 1H), 8.33 (d, J=5.64 Hz, 1H), 9.34 (s, 1H).

reactant | Tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-(4-(benzyloxy)pyridin-3-yl)-N-(methylsulfonyl)methane sulfonamide | 16.8 mmol, 6 g, 1 eq | C(C1=CC=CC=C1)OC1=C(C=NC=C1)N(S(=O)(=O)C)S(=O)(=O)C | C14H16N2O5S2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 42 mmol, 12.2 ml, 2.5 eq | C1CCOC1 | C4H8O
product | N-(4-(benzyloxy)pyridin-3-yl)methane sulfonamide | C(C1=CC=CC=C1)OC1=C(C=NC=C1)NS(=O)(=O)C | C13H14N2O3S
